US07402670B2
(2R)-2-(2-hydroxy-ethyl)-azocane-1-carboxylic acid tert-butyl ester
This compound is prepared in a manner analogous to that described in Example 3, but 1-Boc-azocane is used insead of 1-Boc-pyrrolidine.

reactant | 1-Boc-azocane | C(=O)(OC(C)(C)C)N1CCCCCCC1 | C12H23NO2
reactant | 1-Boc-pyrrolidine | C(=O)(OC(C)(C)C)N1CCCC1 | C9H17NO2
product | (2R)-2-(2-hydroxy-ethyl)-azocane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCCCCC1)CCO | C14H27NO3
